US09163023B2
A −78° C. solution of ethyl 4-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate in dichloromethane (DCM) (150 mL) was treated dropwise with DIBAL-H (128 mL, 128 mmol) and warmed to ambient temperature. After 30 min, the reaction mixture was cooled to 0° C. and treated sequentially with water (5.1 mL), 15% NaOH (5.1 mL) and finally water (12.8 mL) with a 10 minute delay in between each addition. The fine suspension was then filtered through a pad of celite and washed with ethyl acetate 3×. The filtrate was concentrated in vacuo to afford (4-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol (12.4 g, 41.0 mmol, 96% yield) as a yellow solid.

reactant | ethyl 4-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | IC1=C2C(=NC(=C1C(=O)OCC)C)N(C=C2)C | C12H13IN2O2
reactant | DIBAL-H | 128 mmol, 128 mL | CC(C)C[AlH]CC(C)C
reactant | water | 5.1 mL | O | H2O
reactant | NaOH | 5.1 mL | [OH-].[Na+]
reactant | water | 12.8 mL | O | H2O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (4-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | 41.0 mmol, 12.4 g, 96% yield | IC1=C2C(=NC(=C1CO)C)N(C=C2)C | C10H11IN2O
